US07799779B2
a) 3-Cyano-4-methoxyphenylboronic acid
16.23 ml of n-butyllithium solution (1.6M in hexane) are added dropwise to a solution of 5.00 g of 5-bromo-2-methoxybenzonitrile in 90 ml of dry tetrahydrofuran at −78° C. After stirring at this temperature for 45 minutes, 6.71 ml of triisopropylborate are added, and the mixture is then slowly warmed to −20° C. 50 ml of 1N HCl are added to the reaction mixture. The phase is separated and the aqueous phase is extracted three more times with 100 ml of diethyl ether each time. The combihled organic phases are dried with sodium sulphate, filtered and evaporated. The remaining oil is mixed with pentane, and the precipitate which separates out is filtered off with suction and washed once with a little dichloromethane. Drying under high vacuum affords the title compound as a white solid. Rt=2.74.

reactant | n-butyllithium | 1.6M, 16.23 ml | C(CCC)[Li]
reactant | 5-bromo-2-methoxybenzonitrile | 5.00 g | BrC=1C=CC(=C(C#N)C1)OC | C8H6BrNO
reactant | triisopropylborate | 6.71 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3-Cyano-4-methoxyphenylboronic acid | C(#N)C=1C=C(C=CC1OC)B(O)O | C8H8BNO3
